US07605118B2
A solution of 1-cyclooct-3-enylpropan-1-one (1.5 g, 9 mmol) in ethanol (20 ml) was treated with 10% palladium on charcoal (0.09 g) at room temperature and the resulting suspension was hydrogenated during 40 min. at 20 bars. After filtration through Celitee ® and concentration under vacuum, the crude product was purified by flash chromatography (hexane/Et2O 19:1) to give 0.78 g of 1-cyclooctylpropanone (52%).

reactant | 1-cyclooct-3-enylpropan-1-one | 9 mmol, 1.5 g | C1(CC=CCCCC1)C(CC)=O | C11H18O
reactant | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.09 g | [Pd] | Pd
product | 1-cyclooctylpropanone | 0.78 g, 52% | C1(CCCCCCC1)CC(C)=O | C11H20O
